US05543519
8.4 g of 6-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester is dissolved in 500 ml absolute tetrahydrofuran and cooled to -60° C. 15 ml of a 1.5 molar ethereal methyllithium solution is added drop by drop to this solution under argon atmosphere and then stirred for another 4 hours at -60° C. After heating to room temperature the reaction solution is mixed with saturated ammonium chloride solution, extracted with methylene chloride, dried and concentrated by evaporation. The resulting crude product is chromatographed on silica gel with cyclohexane: ethyl acetate=8:2. 4.1 g of 6-benzyloxy-4-methoxymethyl-3-acetyl-9-tosyl-β-carboline with a melting point of 173-175° C. is obtained.

reactant | 6-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester | 8.4 g | C(C)(C)OC(=O)C=1N=CC=2N(C3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C31H30N2O6S
reactant | methyllithium | 1.5 molar | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 6-benzyloxy-4-methoxymethyl-3-acetyl-9-tosyl-β-carboline | 4.1 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C(C)=O)COC | C29H26N2O5S
